US03972934
Two hundred grams of 2-(3-phenoxyphenyl)propionic acid, prepared according to Example 2, were dissolved in 1500 ml. of ethanol, and hydrogen chloride gas was passed into the ethanolic solution until it was saturated. The reaction mixture was then refluxed with stirring overnight after which a large portion of the ethanol was evaporated in vacuo, and the remaining reaction mixture was poured into ice water. The reaction mixture was basified with 10 percent sodium hydroxide, and extracted twice with ethyl ether. The combined ether extracts were washed twice with water and dried over sodium sulfate. The ethyl ether was evaporated, leaving crude ethyl 2-(3-phenoxyphenyl)propionate as an oily residue. The preparation was repeated with an additional 200 g. of 2-(3-phenoxyphenyl)propionic acid. The crude residues were combined and distilled through a 15 cm. Vigreux column to yield 339.9 g. of ethyl 2-(3-phenoxyphenyl)propionate, b.p., 128°-134°C./0.15 mm., nD25 = 1.5458.

reactant | 2-(3-phenoxyphenyl)propionic acid | Two hundred grams | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)O)C | C15H14O3
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-(3-phenoxyphenyl)propionate | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)OCC)C | C17H18O3
